US07345180B2
4 N Hydrochloric acid/1,4-dioxane (2 ml) was added to the diethyl 2-(5-benzyloxycarbonylamino-3-methylpyrazol-1-ylmethylene)m alonate (100 mg) obtained above and stirred for 22 hours. Precipitated crystals were collected by filtration and dried under reduced pressure to give ethyl 5-hydroxy-2-methylpyrazolo[1,5-a]pyrimidine-6-carboxylate (40 mg, Y.:73%).

reactant | Hydrochloric acid 1,4-dioxane | 4 N, 2 ml | Cl.O1CCOCC1
reactant | diethyl 2-(5-benzyloxycarbonylamino-3-methylpyrazol-1-ylmethylene)m alonate | 100 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC(=NN1C=C(C(=O)OCC)C(=O)OCC)C | C20H23N3O6
product | ethyl 5-hydroxy-2-methylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 40 mg, 73% | OC1=NC=2N(C=C1C(=O)OCC)N=C(C2)C | C10H11N3O3
